US04952699
2-(4-n-pentyloxyphenyl)-5-(4-hydroxyphenyl)-thiadiazole
2-(4-n-pentyloxyphenyl)-5-(4-acetyloxyphenyl)-thiadiazole 4.0 g (0.01 moles) was suspended in 40 mL methanol and mixed with a solution of 2.0 g KOH in 90 mL methanol. The mixture was heated for 2 hours under reflux. The solvent was subsequently distilled off in a rotary evaporator and the residue dissolved in 50 mL water. The solution was acidified with 5% HCl, and the precipitate formed was filtered off with suction and recrystallized from ethanol.

reactant | 2-(4-n-pentyloxyphenyl)-5-(4-acetyloxyphenyl)-thiadiazole | 0.01 moles, 4.0 g | C(CCCC)OC1=CC=C(C=C1)N1SC(=CN1)C1=CC=C(C=C1)OC(C)=O | C21H24N2O3S
reactant | KOH | 2.0 g | [OH-].[K+]
solvent | methanol | 40 mL | CO | CH4O
solvent | methanol | 90 mL | CO | CH4O
product | 2-(4-n-pentyloxyphenyl)-5-(4-hydroxyphenyl)-thiadiazole | C(CCCC)OC1=CC=C(C=C1)N1SC(=CN1)C1=CC=C(C=C1)O | C19H22N2O2S
